* source LAB 2
M_M1         N00123 N00123 N00156 N00156 MbreakP           
M_M2         N00127 N00123 N00156 N00156 MbreakP           
M_M3         N00123 N00251 N00457 N00457 Mbreakn           
M_M4         N00127 N00251 N00457 N00457 Mbreakn           
V_V1         N00156 0 5V
M_M5         N00457 N01163 0 0 Mbreakn           
V_V2         N01163 0 5V
V_V3         N00251 0  
+PULSE 0 5 0 .1u .1u .4u 1u
